US09403816B2
(1-Methyl-1H-1,2,3-triazol-5-yl)(1-methyl-1H-imidazol-5-yl)methanone
A mixture of (1-methyl-1H-1,2,3-triazol-5-yl)(1-methyl-1H-imidazol-5-yl)methanol (1.90 g, 9.83 mmol, Intermediate 6: step a) and manganese dioxide (5.04 g, 49.3 mmol) in 1,4-dioxane (100 mL) was stirred in a 100° C. oil bath under argon for 2 hours. The mixture was allowed to cool to room temperature, then was filtered through a pad of Celite®, rinsing with DCM. The filtrate was concentrated, yielding the title compound as a brown powder.

reactant | (1-methyl-1H-1,2,3-triazol-5-yl)(1-methyl-1H-imidazol-5-yl)methanol | CN1N=NC=C1C(O)C1=CN=CN1C | C8H11N5O
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | manganese dioxide | 49.3 mmol, 5.04 g | [O-2].[O-2].[Mn+4]
product | (1-Methyl-1H-1,2,3-triazol-5-yl)(1-methyl-1H-imidazol-5-yl)methanone | CN1N=NC=C1C(=O)C1=CN=CN1C | C8H9N5O
